US06555697B1
Preparation of 5-nitro-2-butylbenzofuran
23.4 g of 2-(2-formyl-4-nitro-phenoxy)hexanoic acid and 2.3 g of potassium carbonate were charged into a 200 ml reactor containing 80 g of acetic anhydride.

reactant | 2-(2-formyl-4-nitro-phenoxy)hexanoic acid | 23.4 g | C(=O)C1=C(OC(C(=O)O)CCCC)C=CC(=C1)[N+](=O)[O-] | C13H15NO6
reactant | potassium carbonate | 2.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetic anhydride | 80 g | C(C)(=O)OC(C)=O | C4H6O3
product | 5-nitro-2-butylbenzofuran | [N+](=O)([O-])C=1C=CC2=C(C=C(O2)CCCC)C1 | C12H13NO3
